US08207178B2
Step D: tert-butyl 4-(4-bromo-2,6-dimethylphenylthio)-6-((E)-2-(dimethylamino)vinyl)-5-nitropyrimidin-2-yl-4-cyanophenylcarbamate
To a mixture of 4-(4-(4-bromo-2,6-dimethylphenylthio)-6-((E)-2-(dimethylamino)vinyl)-5-nitropyrimidin-2-ylamino)benzonitrile (46 mmol), potassium carbonate (64 mmol) and 4-dimethylaminopyridine (5 mmol) in dichloromethane (300 ml) is added a solution of Boc2O (51 mmol) in DCM (100 ml) over 30 minutes. The mixture is stirred for 3 hours at room temperature, washed with brine and extracted with dichloromethane (×3). The combined organic layers are dried over MgSO4 and concentrated to dryness to yield to the title compound which is used for the next step without further purification.

reactant | 4-(4-(4-bromo-2,6-dimethylphenylthio)-6-((E)-2-(dimethylamino)vinyl)-5-nitropyrimidin-2-ylamino)benzonitrile | 46 mmol | BrC1=CC(=C(C(=C1)C)SC1=NC(=NC(=C1[N+](=O)[O-])\C=C\N(C)C)NC1=CC=C(C#N)C=C1)C | C23H21BrN6O2S
reactant | potassium carbonate | 64 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | Boc2O | 51 mmol | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 5 mmol | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(4-bromo-2,6-dimethylphenylthio)-6-((E)-2-(dimethylamino)vinyl)-5-nitropyrimidin-2-yl-4-cyanophenylcarbamate | BrC1=CC(=C(C(=C1)C)SC1=NC(=NC(=C1[N+](=O)[O-])\C=C\N(C)C)N(C(OC(C)(C)C)=O)C1=CC=C(C=C1)C#N)C | C28H29BrN6O4S
